US04725689
c. Preparation of 3-formyl-5-dichloromethyl-2-phthalimidopyrazine
5.1 g of pyridinium chlorochromate were added a little at a time to a solution of 4 g of 3-hydroxymethyl-5-dichloromethyl-2-phthalimidopyrazine in 80 ml of dichloromethane at 35° C., after which the mixture was stirred for 40 minutes and filtered over silica gel, and the filtrate was evaporated down. 3.1 g (76%) of colorless crystals of 3-formyl-5-dichloromethyl-2-phthalimidopyrazine of melting point 145°-146° C. (from ethyl acetate) were obtained. 1H-NMR (270 MHz, CDCl3): δ6.9 (s, 1H), 8.0 (m, 4H), 9.3 (s, 1H), 10.1 (s, 1H).

reactant | pyridinium chlorochromate | 5.1 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 3-hydroxymethyl-5-dichloromethyl-2-phthalimidopyrazine | 4 g | OCC=1C(=NC=C(N1)C(Cl)Cl)N1C(C=2C(C1=O)=CC=CC2)=O | C14H9Cl2N3O3
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 3-formyl-5-dichloromethyl-2-phthalimidopyrazine | 3.1 g, 76% | C(=O)C=1C(=NC=C(N1)C(Cl)Cl)N1C(C=2C(C1=O)=CC=CC2)=O | C14H7Cl2N3O3
